US04107308
4-(4-Methyl-1-piperazinyl)-imidazo[1,5-d]-as-triazine
A mixture of 0.83 gm. of 4-(methylthio)-imidazo[1,5-d]-as-triazine, 5.0 gm. of N-methylpiperazine and 8 ml. of toluene is reacted as described in Example 40 giving the desired product, m.p. 163°-166° C.

reactant | 4-(methylthio)-imidazo[1,5-d]-as-triazine | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Methyl-1-piperazinyl)-imidazo[1,5-d]-as-triazine | CN1CCN(CC1)C1=NN=CC=2N1C=NC2 | C10H14N6
